US06288086B1
1-Ethyl-4-(4-butoxy-benzenesulfonyl)-piperidine-4-carboxylic acid was prepared starting from 1-ethyl-4-(4-butoxy-benzenesulfonyl)piperidine-4-carboxylic acid ethyl ester (7.94 g, 20 mmol) dissolved in methanol (300 ml and 10 N NaOH (35 mL). The resulting reaction mixture was worked up as outlined in example 83. Yield 6.5 g (88%); white solid; mp 162° C.; MS: 370 (M+H)+

reactant | 1-ethyl-4-(4-butoxy-benzenesulfonyl)piperidine-4-carboxylic acid ethyl ester | 20 mmol, 7.94 g | C(C)OC(=O)C1(CCN(CC1)CC)S(=O)(=O)C1=CC=C(C=C1)OCCCC | C20H31NO5S
solvent | methanol | CO | CH4O
solvent | NaOH | 10 N, 35 mL | [OH-].[Na+]
product | 1-Ethyl-4-(4-butoxy-benzenesulfonyl)-piperidine-4-carboxylic acid | C(C)N1CCC(CC1)(C(=O)O)S(=O)(=O)C1=CC=C(C=C1)OCCCC | C18H27NO5S
